US04107307
A 130 gm. portion of salicylamide in 500 ml. of ethanol is reacted with 52.4 gm. of sodium methoxide and 164.9 gm. of 1-iodopropane by heating at reflux. The mixture is cooled, precipitated in 1500 ml. of water and the solid is recrystallized from hot ethanol giving o-propoxybenzamide.

reactant | salicylamide | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | 1-iodopropane | ICCC | C3H7I
solvent | ethanol | C(C)O | C2H6O
product | o-propoxybenzamide | C(CC)OC1=C(C(=O)N)C=CC=C1 | C10H13NO2
